US04443466
4-(2'-Methylbenzyl)imidazole
12.3 g of N-benzyl-4-(2'-methylbenzyl)imidazole are dissolved in 100 ml of ethanol. 0.3 g of 10% palladium-on-carbon is added and the reaction mixture is stirred vigorously at 70° C. in a hydrogen atmosphere until the uptake of hydrogen ceases. The mixture is cooled and filtered. Subsequent treatment as described in Example 54 above affords the desired product.

reactant | N-benzyl-4-(2'-methylbenzyl)imidazole | 12.3 g | C(C1=CC=CC=C1)N1C=NC(=C1)CC1=C(C=CC=C1)C | C18H18N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.3 g | [Pd] | Pd
product | 4-(2'-Methylbenzyl)imidazole | CC1=C(CC=2N=CNC2)C=CC=C1 | C11H12N2
